US04931568
10 g of 3,4-dimethoxythiophene were dissolved in 10 cm3 of 1-hexanone and 30 cm3 of toluene, 0.5 g of NaHSO4 was added, and the mixture was heated to reflux. 6 cm3 of azeotrope were distilled off and the batch was then worked up as in Example 14. Fractionation gave 3.7 g of 3-methoxy-4-hexyloxythiophene, b.p. 80° to 85° C./0.1 mbar. 4 g of dihexyloxythiophene were obtained from the distillation residue by chromatography through SiO2 using CH2Cl2.

reactant | 3,4-dimethoxythiophene | 10 g | COC1=CSC=C1OC | C6H8O2S
reactant | NaHSO4 | 0.5 g | OS(=O)(=O)[O-].[Na+]
reactant | 1-hexanone | 10 cm3 | C(CCCCC)=O | C6H12O
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-4-hexyloxythiophene | 3.7 g | COC1=CSC=C1OCCCCCC | C11H18O2S
